US07285558B2
(d) 5-methyl-7-(2-methylbenzyl)-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
1-(chloromethyl)-2-methylbenzene (0.045 ml) and potassium carbonate (0.6 g) were added to a solution of 5-methyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (2 ml). The mixture was heated at 80° C. for 18 hours then cooled to room temperature. Solids removed by filtration and the crude product was purified on preparative HPLC to give the title compound (0.057 g). Mass: 487.87 (M+H).

reactant | 1-(chloromethyl)-2-methylbenzene | 0.045 ml | ClCC1=C(C=CC=C1)C | C8H9Cl
reactant | potassium carbonate | 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-methyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2 ml | CN1C(NC=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C2=CC=NC=C2)=O | C22H17N5O2
product | 5-methyl-7-(2-methylbenzyl)-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.057 g | CN1C(N(C=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C2=CC=NC=C2)CC2=C(C=CC=C2)C)=O | C30H25N5O2
